US04414347
Preparation of N,N'-bis-(benzyloxycarbonyl)-sulfamide
10 g of anhydrous benzyl alcohol are placed in 150 ml of absolute benzene and 7.4 g of sulfuryl diisocyanate are added dropwise accompanied by stirring. The exothermic reaction which takes place leads to a rise in the temperature to 45° C. and shortly after the start a precipitate is formed. Following the temperature drop, stirring is continued for 1 hour at ambient temperature. The resulting precipitate is suction filtered and dried at 60° C. giving a yield of 18.06 g of colorless crystals (99.2% of theory), m.p. 139°-141° C., which can be recrystallized from ethanol.

reactant | benzyl alcohol | 10 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sulfuryl diisocyanate | 7.4 g | S(=O)(=O)(N=C=O)N=C=O | C2N2O4S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N,N'-bis-(benzyloxycarbonyl)-sulfamide | yield of 18.06 g, 99.2% | C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)NC(=O)OCC1=CC=CC=C1 | C16H16N2O6S
